US07947692B2
A mixture of 4-[2-Hydroxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester (200 mg, 0.53 mmol) in tetrahydrofuran (5 mL) and N,N-dimethylformamide (5 mL) at 0° C. was added sodium hydride (60% in mineral oil, 70 mg, 1.75 mmol) followed by iodomethane (230 mg, 1.62 mmole). The mixture was stirred at 0° C. for three hours. The reaction was quenched with saturated aqueous ammonium chloride solution and partitioned between ethyl acetate and water. The organic layer was dried with magnesium sulfate. Filtration, concentration gave a crude oil which was loaded onto a column of silica gel. Elution with 50% ethyl acetate/hexanes gave 4-[2-Methoxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester (190 mg, 92% yield) as a colorless oil. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-[2-Hydroxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.53 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CO)C1=CC(=CC=C1)C(F)(F)F | C18H25F3N2O3
reactant | sodium hydride | 1.75 mmol, 70 mg | [H-].[Na+]
reactant | iodomethane | 1.62 mmole, 230 mg | IC | CH3I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-Methoxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | 190 mg, 92% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(COC)C1=CC(=CC=C1)C(F)(F)F | C19H27F3N2O3
